US04226866
1-(Benzyloxycarbonyldiethylphosphono)methyl-3-azido-4-(methylthio)-2-azetidinone (0.44 g.) is dissolved in methanol (20 ml.) and treated with N-bromoacetamide (0.52 g.) for two hours. Sodium thiosulfate (10 ml.; 0.1N) is then added and the mixture is allowed to stir for five minutes. At the end of this time, the reaction mixture shows no positive reaction to starch iodide paper. The reaction mixture is saturated with sodium chloride and extracted with methylene chloride. The methylene chloride extract is dried and evaporated. The residue is chromatographed to afford 1-(benzyloxycarbonyldiethylphosphono)methyl-3-azido-4-methylsulfonyl-2-azetidinone.

reactant | 1-(Benzyloxycarbonyldiethylphosphono)methyl-3-azido-4-(methylthio)-2-azetidinone | 0.44 g | C(C1=CC=CC=C1)OC(=O)CCOP(=O)(OCC)CN1C(C(C1SC)N=[N+]=[N-])=O | C17H23N4O6PS
reactant | N-bromoacetamide | 0.52 g | BrNC(C)=O | C2H4BrNO
reactant | Sodium thiosulfate | 0.1N, 10 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1-(benzyloxycarbonyldiethylphosphono)methyl-3-azido-4-methylsulfonyl-2-azetidinone | C(C1=CC=CC=C1)OC(=O)CCOP(=O)(OCC)CN1C(C(C1S(=O)(=O)C)N=[N+]=[N-])=O | C17H23N4O8PS
